US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoro)ethylamide
Triethylamine (4.9 mL, 33 mmol) was added to the solution of 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(S)-carboxylic acid (2.6 g, 5.72 mmol) and 2,2,2-trifluoroethylamine hydrochloride (1.55 g, 11.4 mmol) in dried dichloromethane (50 mL) at 0° C. under nitrogen, followed by bis(2-oxo-3-oxazolidinyl)phosphinic chloride (2.902 g, 11.4 mmol). The temperature was allowed to rise to room temperature and the mixture was stirred at room temperature for twenty-four hours, then filtered. The filtrate was concentrated under vacuum to give a brown solid which was purified by column chromatography (silica gel, 8:2 diethyl ether: petroleum spirit) to provide a white solid as the desired product.

reactant | Triethylamine | 33 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(S)-carboxylic acid | 5.72 mmol, 2.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)O)CC | C25H30N2O6
reactant | 2,2,2-trifluoroethylamine hydrochloride | 11.4 mmol, 1.55 g | Cl.FC(CN)(F)F
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 11.4 mmol, 2.902 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid (2,2,2-trifluoro)ethylamide | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C27H32F3N3O5
